* File: DFSR.pex.netlist.pex
* Created: Fri Dec  1 03:41:49 2023
* Program "Calibre xRC"
* Version "v2010.4_26.16"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFSR_VDD! 3 53 177 188 191 194 197 200 203 206 209 218 221 223 232
+ 234 241 245 248 252 257 259 264 267 271 276 278 283 288 290 292 309 314 317 320
+ 321 331 337 349
c458 349 0 0.00389486f
c459 337 0 0.0634285f
c460 331 0 0.0042317f
c461 327 0 0.0264783f
c462 320 0 1.43946e-20
c463 301 0 0.00354048f
c464 300 0 0.00354048f
c465 299 0 0.00393386f
c466 297 0 0.00354048f
c467 296 0 0.00354048f
c468 295 0 0.00354048f
c469 294 0 0.00354048f
c470 293 0 0.00354048f
c471 292 0 0.0537375f
c472 291 0 0.00354048f
c473 290 0 0.031726f
c474 288 0 0.0321817f
c475 283 0 0.00788073f
c476 278 0 0.0233313f
c477 276 0 0.00621994f
c478 271 0 0.0232324f
c479 267 0 0.00650953f
c480 264 0 0.00621984f
c481 259 0 0.0232077f
c482 257 0 0.00713507f
c483 252 0 0.0376505f
c484 248 0 0.00551372f
c485 245 0 0.0308806f
c486 241 0 0.00652601f
c487 234 0 0.0522499f
c488 232 0 0.00827596f
c489 223 0 0.0468679f
c490 221 0 0.00690146f
c491 218 0 0.00934936f
c492 209 0 0.10299f
c493 197 0 3.13614e-19
r494 342 353 0.0818122
r495 340 342 0.75
r496 337 349 0.3
r497 335 337 0.0138221
r498 331 353 0.385686
r499 329 331 0.75
r500 327 345 0.0248798
r501 323 326 0.0514183
r502 323 346 0.3
r503 314 335 4.33333
r504 312 314 144.565
r505 311 312 48.2286
r506 309 311 48.2286
r507 308 309 0.120571
r508 307 308 96.3366
r509 306 307 24.1143
r510 305 306 48.2286
r511 304 305 24.3554
r512 298 335 0.478245
r513 298 299 0.0316473
r514 292 293 0.0286727
r515 290 326 0.158125
r516 290 291 0.0286727
r517 286 288 0.0713221
r518 285 301 0.0286727
r519 285 286 0.158125
r520 282 301 0.0732653
r521 282 283 0.321727
r522 279 300 0.0286727
r523 278 301 0.0286727
r524 275 300 0.0732653
r525 275 276 0.321727
r526 272 297 0.0286727
r527 271 300 0.0286727
r528 269 321 11.6809
r529 267 269 26
r530 266 299 0.0673825
r531 266 267 0.315862
r532 263 297 0.0732653
r533 263 264 0.321727
r534 260 296 0.0286727
r535 259 297 0.0286727
r536 256 296 0.0732653
r537 256 257 0.315843
r538 253 295 0.0286727
r539 252 299 0.0316473
r540 250 320 11.5371
r541 248 250 26
r542 247 295 0.0732653
r543 247 248 0.360364
r544 246 294 0.0286727
r545 245 295 0.0286727
r546 245 246 0.389784
r547 243 317 6.41065
r548 241 243 26
r549 240 294 0.0732653
r550 240 241 0.317128
r551 237 238 0.221254
r552 236 237 0.110627
r553 235 293 0.0286727
r554 235 236 0.158125
r555 234 296 0.0286727
r556 231 293 0.0732653
r557 231 232 0.315843
r558 229 307 4.33333
r559 224 291 0.0286727
r560 223 294 0.0286727
r561 223 229 0.0796154
r562 220 291 0.0732653
r563 220 221 0.328999
r564 217 345 0.0941427
r565 217 218 0.315843
r566 214 353 1.5
r567 211 349 3.15776
r568 211 346 0.0740206
r569 209 211 1.5
r570 209 214 3.11659
r571 184 185 24.1143
r572 183 184 48.2286
r573 182 183 24.1143
r574 181 182 48.2286
r575 180 181 24.1143
r576 179 180 48.2286
r577 177 179 12.0571
r578 176 177 0.120571
r579 175 238 17.3333
r580 175 176 11.9366
r581 174 237 17.3333
r582 174 175 48.2286
r583 173 236 17.3333
r584 173 174 24.1143
r585 172 173 48.2286
r586 171 172 24.1143
r587 170 171 48.2286
r588 169 170 24.1143
r589 167 169 48.2286
r590 78 253 0.0945863
r591 78 311 17.3333
r592 76 252 0.129375
r593 76 78 0.221254
r594 76 312 17.3333
r595 66 329 0.0580793
r596 66 170 17.3333
r597 64 66 0.221254
r598 64 171 17.3333
r599 60 305 17.3333
r600 58 229 0.110577
r601 58 60 0.221254
r602 58 306 17.3333
r603 54 278 0.0132692
r604 54 185 17.3333
r605 53 185 48.2286
r606 53 286 17.3333
r607 51 206 4.20698
r608 51 283 26
r609 46 271 0.0132692
r610 46 183 17.3333
r611 44 54 0.110577
r612 44 279 0.158125
r613 44 184 17.3333
r614 43 203 4.20698
r615 43 276 26
r616 38 259 0.0132692
r617 38 181 17.3333
r618 36 46 0.110577
r619 36 272 0.158125
r620 36 182 17.3333
r621 35 200 4.20698
r622 35 264 26
r623 30 234 0.0132692
r624 30 238 0.110577
r625 30 179 17.3333
r626 28 38 0.110577
r627 28 260 0.158125
r628 28 180 17.3333
r629 27 197 4.20698
r630 27 257 26
r631 22 292 0.0132692
r632 22 64 0.110577
r633 22 172 17.3333
r634 19 194 4.20698
r635 19 232 26
r636 14 345 0.038149
r637 14 340 0.0580529
r638 14 167 17.3333
r639 12 329 0.052524
r640 12 327 0.158125
r641 12 169 17.3333
r642 11 188 4.20698
r643 11 218 26
r644 6 60 0.111733
r645 6 224 0.0132692
r646 6 304 17.3333
r647 5 304 48.2286
r648 5 326 17.3333
r649 3 191 4.20698
r650 3 221 26
.ends

.subckt PM_DFSR_VSS! 3 74 77 80 83 86 89 92 98 101 103 104 106 108 111 116 118
+ 119 121 126 128 131 134 139 141 144 146 154 157 161 162 163 167
c413 163 0 1.03487e-19
c414 161 0 1.83867e-19
c415 154 0 0.00158819f
c416 146 0 0.0356585f
c417 141 0 0.0157928f
c418 139 0 0.00812708f
c419 134 0 0.0110111f
c420 131 0 0.00647375f
c421 128 0 0.00823435f
c422 126 0 0.00630156f
c423 121 0 0.00668655f
c424 119 0 0.00658839f
c425 118 0 0.0101278f
c426 116 0 0.00748748f
c427 111 0 0.00639029f
c428 108 0 0.0155942f
c429 106 0 0.00770972f
c430 104 0 0.0276963f
c431 103 0 0.0212773f
c432 101 0 0.00742177f
c433 98 0 0.00955261f
c434 83 0 3.01981e-19
c435 80 0 1.31019e-19
r436 166 167 0.115576
r437 164 166 265.71
r438 159 160 0.178582
r439 158 159 0.153149
r440 155 156 0.163175
r441 152 153 0.138221
r442 149 152 0.0409135
r443 149 164 2.16667
r444 144 167 265.71
r445 142 144 2.16667
r446 142 146 0.0884615
r447 141 160 0.0248798
r448 141 142 0.154808
r449 138 160 0.0941427
r450 138 139 0.297612
r451 136 163 13.9325
r452 134 136 26
r453 133 159 0.0898387
r454 133 134 0.367233
r455 130 158 0.0941427
r456 130 131 0.297612
r457 129 157 0.0446685
r458 128 158 0.0248798
r459 128 129 0.270913
r460 125 157 0.0454707
r461 125 126 0.297612
r462 123 162 13.9325
r463 121 123 26
r464 120 157 0.040353
r465 120 121 0.267627
r466 119 156 0.0248911
r467 118 157 0.0398416
r468 118 119 0.282099
r469 115 156 0.0941427
r470 115 116 0.297612
r471 113 161 13.7396
r472 111 113 26
r473 110 155 0.0941427
r474 110 111 0.295379
r475 109 154 0.0286727
r476 108 155 0.0248798
r477 108 109 0.450806
r478 105 154 0.0732653
r479 105 106 0.297612
r480 104 153 0.0248798
r481 103 154 0.0286727
r482 103 104 0.475914
r483 100 153 0.0941427
r484 100 101 0.303958
r485 97 152 0.0941427
r486 97 98 0.297612
r487 27 92 5.5704
r488 27 139 26
r489 23 89 5.5704
r490 23 131 26
r491 19 86 5.5704
r492 19 126 26
r493 15 83 5.5704
r494 15 116 26
r495 11 80 5.5704
r496 11 106 26
r497 7 74 5.5704
r498 7 98 26
r499 3 77 5.5704
r500 3 101 26
.ends

.subckt PM_DFSR_NET17 2 4 9 12 16 19 21 24 28 32 35 36 37 40 41
c146 36 0 0.00136137f
c147 35 0 2.89311e-19
c148 32 0 2.11922e-19
c149 28 0 0.00552316f
c150 24 0 0.00970997f
c151 21 0 0.0105075f
c152 19 0 0.00809671f
c153 16 0 5.7524e-20
c154 4 0 2.51906e-19
c155 2 0 1.48328e-19
r156 41 42 5.06995
r157 40 42 4.63847
r158 32 42 26
r159 30 32 0.373948
r160 29 36 0.0728129
r161 28 30 0.0960754
r162 28 29 0.318741
r163 26 37 6.94491
r164 24 26 26
r165 23 36 0.0189228
r166 23 24 0.690941
r167 22 35 0.0189228
r168 21 36 0.0728129
r169 21 22 0.391427
r170 18 35 0.0728129
r171 18 19 0.586118
r172 15 35 0.0728129
r173 15 16 0.189506
r174 4 12 4.90044
r175 4 16 26
r176 2 9 5.68293
r177 2 19 26
.ends

.subckt PM_DFSR_NET019 2 4 11 14 17 20 24 27 30 36 39 40 41 42 44 45
c144 40 0 0.00440527f
c145 39 0 0.00125253f
c146 30 0 0.00645574f
c147 27 0 0.00881277f
c148 14 0 0.0087974f
c149 11 0 0.00370013f
c150 4 0 2.66435e-19
c151 2 0 1.86444e-19
r152 44 45 6.26682
r153 40 47 0.027335
r154 39 47 0.225222
r155 36 45 26
r156 34 40 0.0980135
r157 34 36 0.248823
r158 32 41 5.064
r159 32 42 7.95771
r160 30 32 26
r161 29 39 0.0980135
r162 29 30 0.685594
r163 27 50 0.600583
r164 24 49 0.115809
r165 14 47 0.75
r166 11 50 0.0875624
r167 11 49 0.0875624
r168 9 11 1.5
r169 9 14 0.817343
r170 4 20 4.90044
r171 4 24 26
r172 2 17 5.68293
r173 2 27 26
.ends

.subckt PM_DFSR_NET024 25 28 31 33 42 48 49 51 54 60 62 65 71 73
c160 73 0 0.00545012f
c161 71 0 0.00127238f
c162 69 0 0.00180946f
c163 65 0 0.0148136f
c164 62 0 0.01398f
c165 60 0 0.0206889f
c166 54 0 0.00127899f
c167 51 0 0.00224901f
c168 49 0 0.0041862f
c169 48 0 0.00230425f
c170 42 0 0.0079086f
c171 33 0 0.0183543f
c172 31 0 0.00279215f
c173 28 0 1.29535e-19
r174 73 78 0.621504
r175 71 73 1.5
r176 69 74 1.5
r177 65 67 14.1665
r178 62 67 66.3
r179 57 65 14.58
r180 57 60 132.6
r181 54 65 20
r182 52 71 0.043701
r183 52 54 0.0109253
r184 50 69 0.0305231
r185 50 51 0.0568146
r186 48 69 0.0305231
r187 48 49 0.0568146
r188 42 51 0.322006
r189 40 49 0.44899
r190 36 78 1.5
r191 33 74 1.54374
r192 31 33 1.5
r193 31 36 0.199543
r194 4 28 4.08563
r195 4 40 13
r196 2 25 5.68293
r197 2 42 26
.ends

.subckt PM_DFSR_NET7 2 4 7 17 20 23 26 30 32 34 37 42 43
c86 43 0 1.51202e-19
c87 42 0 3.9579e-19
c88 37 0 0.0072127f
c89 34 0 0.00402285f
c90 32 0 9.84662e-20
c91 30 0 0.00798519f
c92 20 0 9.1495e-20
r93 39 43 0.0728129
r94 36 43 0.0728129
r95 36 37 0.61128
r96 35 42 0.0189228
r97 34 43 0.0189228
r98 34 35 0.239065
r99 32 42 0.0728129
r100 32 33 0.162401
r101 29 42 0.0728129
r102 29 30 0.719667
r103 26 27 4.57683
r104 7 39 0.171587
r105 7 27 26
r106 6 20 5.85173
r107 6 37 26
r108 4 23 4.08563
r109 4 33 13
r110 2 17 5.68293
r111 2 30 26
.ends

.subckt PM_DFSR_NET13 2 4 7 33 36 39 42 45 54 56 59 64 65 67 70 71 72 73 75 79
+ 87 93
c249 87 0 0.00195579f
c250 79 0 0.011483f
c251 75 0 0.0212179f
c252 72 0 3.8141e-19
c253 71 0 0.00380046f
c254 70 0 4.67218e-19
c255 67 0 0.0139149f
c256 65 0 0.00769657f
c257 64 0 1.8534e-19
c258 59 0 0.00661637f
c259 56 0 1.6064e-20
c260 54 0 0.00776852f
c261 45 0 0.0126835f
c262 36 0 8.97187e-20
c263 4 0 1.6842e-19
c264 2 0 4.35082e-19
r265 89 93 1.5
r266 87 95 0.219502
r267 85 87 0.75
r268 79 84 66.3
r269 75 83 132.6
r270 73 89 0.0686079
r271 71 85 0.00382863
r272 71 72 0.0134814
r273 69 85 0.230675
r274 69 70 0.0134814
r275 67 84 14.1665
r276 67 83 14.58
r277 65 67 20
r278 64 73 0.0552559
r279 64 65 0.514844
r280 61 72 0.079413
r281 58 72 0.079413
r282 58 59 0.650317
r283 56 70 0.079413
r284 56 57 0.143295
r285 53 70 0.079413
r286 53 54 0.719667
r287 50 95 1.5
r288 47 93 0.399094
r289 45 47 1.5
r290 45 50 3.475
r291 42 43 4.57683
r292 7 61 0.148961
r293 7 43 26
r294 6 36 5.85173
r295 6 59 26
r296 4 39 4.08563
r297 4 57 13
r298 2 33 5.68293
r299 2 54 26
.ends

.subckt PM_DFSR_NET033 2 4 25 26 60 63 67 72 75 78 79 81 84 91 92 95 98 101 107
+ 109 112 116 119 121
c206 121 0 0.0199154f
c207 119 0 0.00325956f
c208 116 0 0.00649557f
c209 112 0 0.0175025f
c210 109 0 0.0110096f
c211 107 0 0.0240538f
c212 101 0 0.0238446f
c213 98 0 0.0151025f
c214 95 0 0.00419716f
c215 92 0 1.77142e-19
c216 91 0 9.34611e-19
c217 84 0 0.00382709f
c218 81 0 0.00727239f
c219 79 0 9.33386e-21
c220 78 0 0.00628391f
c221 75 0 0.00127449f
c222 72 0 0.0114951f
c223 67 0 0.00808947f
c224 26 0 0.00299842f
c225 25 0 0.00897652f
r226 121 122 0.757282
r227 119 121 1.5
r228 116 126 1.5
r229 112 114 14.4562
r230 109 114 66.3
r231 104 112 14.8294
r232 104 107 132.6
r233 95 112 20
r234 93 119 0.0471718
r235 93 95 0.011793
r236 90 116 0.0248861
r237 90 91 0.0134814
r238 83 84 0.414401
r239 82 92 0.0189228
r240 81 83 0.0960754
r241 81 82 0.322978
r242 79 92 0.0728129
r243 79 80 0.0668708
r244 78 92 0.0728129
r245 77 91 0.079413
r246 77 78 0.432956
r247 74 91 0.079413
r248 74 75 0.210293
r249 72 126 0.151937
r250 70 72 1.5
r251 67 70 2.13846
r252 67 122 1.5
r253 25 26 0.900624
r254 24 101 135.15
r255 24 26 10.3708
r256 23 98 77.775
r257 23 26 10.3708
r258 18 25 4.72909
r259 18 84 20
r260 4 63 4.08563
r261 4 80 13
r262 2 60 5.68293
r263 2 75 26
.ends

.subckt PM_DFSR_Q 2 4 9 12 15 18
c47 15 0 0.0104145f
c48 2 0 9.07025e-20
r49 18 19 0.402031
r50 15 18 0.519548
r51 4 12 4.08563
r52 4 19 13
r53 2 9 5.68293
r54 2 15 26
.ends

.subckt PM_DFSR_NET028 2 4 17 25 26 40 54 67 68 81 82 130 131 136 137 142 146
+ 147 149 152 155 167 174 182 184 191 194 201 202 204 206 208 210 212 216 218 222
+ 228 231 238 251
c478 251 0 0.00354564f
c479 238 0 0.0123605f
c480 231 0 0.00574842f
c481 228 0 0.00630066f
c482 222 0 0.0085938f
c483 218 0 0.00598296f
c484 216 0 0.0244656f
c485 212 0 0.0171818f
c486 208 0 3.53689e-19
c487 206 0 0.0108331f
c488 204 0 0.0139687f
c489 202 0 0.00998527f
c490 201 0 0.00143571f
c491 194 0 0.00574585f
c492 191 0 0.00127449f
c493 184 0 5.27982e-20
c494 182 0 0.00897137f
c495 174 0 0.00274376f
c496 167 0 0.00542384f
c497 155 0 0.0126233f
c498 147 0 0.00189877f
c499 146 0 0.00160531f
c500 142 0 0.00197583f
c501 137 0 9.98414e-19
c502 136 0 0.00255882f
c503 131 0 0.00617043f
c504 130 0 0.0029693f
c505 82 0 0.0119749f
c506 81 0 0.0116969f
c507 68 0 0.0154755f
c508 67 0 0.0131279f
c509 54 0 0.0114463f
c510 40 0 0.0117133f
c511 26 0 0.00351554f
c512 25 0 0.0081204f
c513 17 0 0.00394055f
r514 242 243 0.320261
r515 240 242 1.15202
r516 238 253 0.198687
r517 236 238 0.75
r518 231 234 0.0221154
r519 231 251 1.5
r520 202 236 0.0345746
r521 200 236 0.2377
r522 200 201 0.00783404
r523 193 201 0.111421
r524 193 194 0.519548
r525 190 201 0.111421
r526 190 191 0.210293
r527 187 253 1.5
r528 184 243 1.26378
r529 182 184 1.5
r530 182 187 0.623318
r531 179 243 1.5
r532 176 251 0.123438
r533 174 176 1.5
r534 174 179 0.3492
r535 170 172 1.5
r536 167 170 1.79589
r537 167 242 1.5
r538 162 164 1.5
r539 160 162 0.399086
r540 160 240 1.5
r541 155 157 1.5
r542 155 160 1.59634
r543 147 172 0.0561693
r544 146 147 0.0465391
r545 144 228 0.0589403
r546 142 144 1.5
r547 142 146 0.0631595
r548 139 222 0.0170252
r549 137 139 1.5
r550 136 137 0.0766729
r551 136 164 0.0342832
r552 133 218 0.0482539
r553 131 133 1.5
r554 130 131 0.0707974
r555 130 157 0.0328796
r556 123 216 135.15
r557 81 210 57.375
r558 81 82 9.54735
r559 78 82 4.72909
r560 78 234 20
r561 67 208 75.225
r562 67 68 9.54735
r563 64 68 4.03364
r564 64 228 20
r565 53 206 57.375
r566 53 54 9.54735
r567 50 54 4.72909
r568 50 222 20
r569 39 204 75.225
r570 39 40 9.54735
r571 36 40 4.03364
r572 36 218 20
r573 26 123 10.3708
r574 25 27 4.72909
r575 25 26 0.900624
r576 23 212 77.775
r577 23 26 10.3708
r578 17 202 0.00783404
r579 17 27 20
r580 4 152 4.08563
r581 4 194 13
r582 2 149 5.68293
r583 2 191 26
.ends

.subckt PM_DFSR_NET020 2 15 16 29 30 44 58 91 94 95 99 104 106 107 112 115 116
+ 123 125 132 137 139 141 145 150 159 162 164 166 168 170 176 180 184 188 190 192
c531 192 0 0.0108835f
c532 190 0 0.0237928f
c533 188 0 0.00242705f
c534 184 0 0.00566125f
c535 180 0 0.00724158f
c536 176 0 0.00738485f
c537 170 0 0.0136597f
c538 168 0 0.0111081f
c539 162 0 1.23692e-19
c540 159 0 0.0253337f
c541 150 0 0.0195438f
c542 145 0 0.00323853f
c543 141 0 0.00363296f
c544 139 0 0.0061343f
c545 137 0 0.00694547f
c546 132 0 0.00263503f
c547 125 0 0.00565203f
c548 123 0 0.00379892f
c549 107 0 0.00295039f
c550 106 0 0.00564664f
c551 104 0 0.00660435f
c552 99 0 2.2353e-19
c553 95 0 0.0010152f
c554 94 0 0.00631584f
c555 91 0 0.0034758f
c556 58 0 0.0118306f
c557 44 0 0.0119238f
c558 30 0 0.0119348f
c559 29 0 0.0124981f
c560 16 0 0.0117033f
c561 15 0 0.0129508f
r562 205 207 0.399094
r563 190 207 1.35497
r564 188 190 1.5
r565 162 188 0.0382863
r566 158 162 0.0486844
r567 155 207 1.5
r568 150 152 1.5
r569 150 155 3.19269
r570 147 205 1.5
r571 145 199 1.33657
r572 143 145 1.5
r573 143 147 0.155829
r574 139 141 1.5
r575 139 143 0.997715
r576 137 192 0.598642
r577 135 137 1.5
r578 132 135 0.199543
r579 132 199 1.5
r580 128 197 1.5
r581 123 125 1.5
r582 123 128 0.6984
r583 115 116 4.08563
r584 109 184 0.048266
r585 107 109 1.5
r586 106 107 0.0693131
r587 106 152 0.268517
r588 104 197 0.501782
r589 103 180 0.0248798
r590 101 103 1.5
r591 101 104 0.0750835
r592 99 101 0.0736365
r593 99 141 0.292966
r594 98 176 0.00829327
r595 96 98 1.5
r596 95 125 0.31037
r597 95 96 0.118336
r598 94 174 0.0482539
r599 92 94 1.5
r600 91 192 0.000779164
r601 91 92 0.107894
r602 57 170 75.225
r603 57 58 9.54735
r604 54 58 4.03364
r605 54 184 20
r606 43 168 57.375
r607 43 44 9.54735
r608 40 44 4.72909
r609 40 180 20
r610 29 164 75.225
r611 29 30 9.54735
r612 26 30 4.03364
r613 26 174 20
r614 15 166 57.375
r615 15 16 9.54735
r616 12 16 4.72909
r617 12 176 20
r618 3 158 0.19477
r619 3 159 0.921579
r620 3 116 13
r621 2 112 5.68293
r622 2 159 26
.ends

.subckt PM_DFSR_NET9 13 21 22 30 32 52 55 58 61 64 66 73 76 78 79 81 83 88 89
+ 94 98 101 105 114
c232 114 0 0.00685316f
c233 105 0 0.00125041f
c234 101 0 1.55577e-19
c235 98 0 0.0238419f
c236 94 0 0.0148171f
c237 89 0 4.9949e-19
c238 88 0 3.90836e-19
c239 83 0 0.00774886f
c240 79 0 0.00586595f
c241 78 0 0.00138547f
c242 73 0 0.00867496f
c243 66 0 0.00389807f
c244 64 0 0.00853326f
c245 52 0 2.17017e-19
c246 32 0 4.25438e-19
c247 30 0 7.72203e-20
c248 22 0 0.00340439f
c249 21 0 0.00833643f
c250 13 0 0.00428512f
r251 107 114 0.0467498
r252 105 107 1.5
r253 101 103 0.0207139
r254 101 108 1.5
r255 91 105 0.0409752
r256 89 105 0.0409752
r257 89 90 0.0521435
r258 88 101 0.0414277
r259 84 93 0.0189228
r260 83 85 0.0960754
r261 83 84 0.322978
r262 80 93 0.0728129
r263 80 81 0.115809
r264 79 93 0.0728129
r265 78 91 0.0521435
r266 78 79 0.326372
r267 76 90 0.136866
r268 72 88 0.0522541
r269 72 73 0.747496
r270 69 114 1.5
r271 66 108 0.264582
r272 64 66 1.5
r273 64 69 1.87116
r274 51 98 135.15
r275 32 61 4.90044
r276 32 81 26
r277 30 55 5.68293
r278 30 76 26
r279 28 58 4.57683
r280 28 73 26
r281 26 52 5.85173
r282 26 103 26
r283 22 51 10.3708
r284 21 23 4.72909
r285 21 22 0.900624
r286 19 94 77.775
r287 19 22 10.3708
r288 13 85 0.414401
r289 13 23 20
.ends

.subckt PM_DFSR_NET016 13 21 22 26 28 52 55 58 61 64 73 75 76 78 80 83 86 91 95
+ 96 100 106 112 116
c239 116 0 0.00641347f
c240 112 0 0.00811067f
c241 106 0 0.00494654f
c242 102 0 0.00137217f
c243 100 0 0.0239707f
c244 96 0 0.0153155f
c245 91 0 0.00175964f
c246 86 0 0.00339763f
c247 83 0 0.00174523f
c248 80 0 0.00729236f
c249 76 0 0.00133892f
c250 75 0 0.00172237f
c251 73 0 0.00295227f
c252 64 0 0.0094922f
c253 55 0 2.28105e-19
c254 28 0 4.55084e-19
c255 22 0 0.00299842f
c256 21 0 0.00952748f
c257 13 0 0.00429183f
r258 106 109 0.0974391
r259 106 108 0.0974391
r260 106 112 1.5
r261 104 116 0.0662289
r262 102 104 1.5
r263 93 102 0.0337947
r264 91 102 0.0337947
r265 91 92 0.0632147
r266 86 109 0.347428
r267 83 108 0.326372
r268 81 95 0.0189228
r269 80 88 0.0960754
r270 80 81 0.322978
r271 77 95 0.0728129
r272 77 78 0.107335
r273 76 95 0.0728129
r274 75 93 0.0632147
r275 75 76 0.115809
r276 73 92 0.347428
r277 69 116 1.5
r278 66 112 0.294332
r279 64 66 1.5
r280 64 69 2.67308
r281 51 100 135.15
r282 32 61 4.57683
r283 32 83 26
r284 30 55 5.85173
r285 30 86 26
r286 28 58 4.90044
r287 28 78 26
r288 26 52 5.68293
r289 26 73 26
r290 22 51 10.3708
r291 21 23 4.72909
r292 21 22 0.900624
r293 19 96 77.775
r294 19 22 10.3708
r295 13 88 0.414401
r296 13 23 20
.ends

.subckt PM_DFSR_RST 21 22 53 65 66 68 71 73 76 78 81 85 89 95 100 105 109 110
c235 110 0 0.00445928f
c236 109 0 0.00266028f
c237 105 0 0.0135475f
c238 95 0 8.42108e-19
c239 89 0 0.0113383f
c240 85 0 0.0220609f
c241 81 0 0.0166686f
c242 78 0 0.0247253f
c243 76 0 1.32441e-19
c244 73 0 0.0156017f
c245 71 0 0.0047245f
c246 66 0 0.00364288f
c247 65 0 8.72058e-19
c248 53 0 0.00435333f
c249 22 0 0.00329289f
c250 21 0 0.00833627f
r251 109 110 0.0798189
r252 100 110 1.5
r253 97 105 2.05832
r254 95 97 1.5
r255 89 94 66.3
r256 85 93 132.6
r257 76 100 0.040529
r258 76 77 0.0515718
r259 75 95 0.0477868
r260 73 94 14.234
r261 73 93 14.6366
r262 71 73 20
r263 71 77 0.165232
r264 66 68 0.142257
r265 65 75 0.060327
r266 65 66 0.303069
r267 58 109 1.65435
r268 56 58 1.5
r269 53 56 0.598629
r270 53 105 1.5
r271 21 22 0.900624
r272 20 78 135.15
r273 20 22 10.3708
r274 19 81 77.775
r275 19 22 10.3708
r276 14 21 4.72909
r277 14 66 20
.ends

.subckt PM_DFSR_D 21 22 36 39 41 44
c39 44 0 0.0232051f
c40 41 0 0.0154944f
c41 36 0 0.0123146f
c42 22 0 0.00340439f
c43 21 0 0.0096578f
r44 36 39 0.154627
r45 21 22 0.900624
r46 20 44 135.15
r47 20 22 10.3708
r48 19 41 77.775
r49 19 22 10.3708
r50 14 21 4.72909
r51 14 36 20
.ends

.subckt PM_DFSR_CLK 21 22 36 39 41 44
c53 44 0 0.0237121f
c54 41 0 0.0151025f
c55 36 0 0.00523781f
c56 22 0 0.00313557f
c57 21 0 0.00919256f
r58 36 39 0.222663
r59 21 22 0.900624
r60 20 44 135.15
r61 20 22 10.3708
r62 19 41 77.775
r63 19 22 10.3708
r64 14 21 4.72909
r65 14 36 20
.ends

.subckt PM_DFSR_XI6_NET15 1 2
r8 1 2 9.70842
.ends

.subckt PM_DFSR_XI12_NET14 1 2
c12 1 0 1.64866e-19
r13 1 2 13.0217
.ends

